US04472304
A solution of 10.22 g of 3-aminopropyldimethylamine in 100 ml of methanol was neutralized with 12 ml of glacial acetic acid and mixed with 100 g of benzaldehyde. To the stirred mixture, was added portionwise 8.38 g of sodium cyanoborohydride. The mixture was allowed to react at room temperature for 16 hours. The reaction mixture was adjusted to pH 1 with concentrated hydrochloric acid, and stripped of the methanol by distillation under reduced pressure. The residue was treated with 200 ml of water and 200 ml of chloroform. The aqueous layer was separated and extracted with 200 ml of chloroform to remove the benzaldehyde. The aqueous layer was adjusted to pH 12 with sodium hydroxide and extracted twice with 200 ml of chloroform. The chloroform extract was dried over sodium sulfate and freed from the solvent by distillation under reduced pressure to yield 26 g (92% yield) of [3-(N,N-dimethylamino)propyl]dibenzylamine.

reactant | 3-aminopropyldimethylamine | 10.22 g | NCCCN(C)C | C5H14N2
reactant | benzaldehyde | 100 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 8.38 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | [3-(N,N-dimethylamino)propyl]dibenzylamine | 26 g, 92% yield | CN(C)CCCN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H26N2
